US04775223
((+)-2-heptyloxypropanol)
2.0 g of LiAlH4 was added to 62 ml of ether and the mixture was stirred for 3 hours. To the mixture wa added dropwise 14.6 g of (-)-ethyl-2-heptyloxypropionate in the same manner as in Example 2, and the mixture was stirred for 15 minutes. Then, a small amount of water and then 50 ml of 10% H2SO4 aqueous solution were added thereto. The ether layer was separated, dried with MgSO4 and filtrated. Ether was distilled off to obtain the objective product at an yield of 9.0 g. The optical rotation [α]D25° was +17.4°

reactant | LiAlH4 | 2.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 62 ml | CCOCC | C4H10O
reactant | (-)-ethyl-2-heptyloxypropionate | 14.6 g | C(C)OC(C(C)OCCCCCCC)=O | C12H24O3
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | (+)-2-heptyloxypropanol | C(CCCCCC)OC(CO)C | C10H22O2
